US07968581B2
Step 1: 1(3-Trifluoromethylphenyl)-2-hydroxyethanone
A solution of 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone (1 g) in acetonitrile (2.5 mL) and water (10 mL) is treated under microwave irradiation (125° C., 50 min) The same experiment is repeated five times. All the vials are collected, extracted with DCM, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone | 1 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 1(3-Trifluoromethylphenyl)-2-hydroxyethanone | FC(C=1C=C(C=CC1)C(CO)=O)(F)F | C9H7F3O2
